US09334263B2
To a solution of (2S)-tert-butyl 2-((4-(4-(4-(5-(1-phenylethyl)pyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate (130 mg, crude) in dichloromethane (6 mL) was dropwise added trifluoroacetic acid (2 mL). The reaction mixture was stirred at room temperature for 0.5 hour and then concentrated. The residue was purified by Prep-HPLC to provide N-(1-((S)-morpholin-2-ylmethyl)-1H-pyrazol-4-yl)-4-(4-(5-(1-phenylethyl)pyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-amine as a white solid, which was then separated by Chiral-HPLC to afford N-(1-((S)-morpholin-2-ylmethyl)-1H-pyrazol-4-yl)-4-(4-(5-((R)-1-phenylethyl)pyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-amine as a white solid (15.4 mg, 17%).

reactant | (2S)-tert-butyl 2-((4-(4-(4-(5-(1-phenylethyl)pyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate | 130 mg | C1(=CC=CC=C1)C(C)C=1C=NC(=NC1)N1CCN(CC1)C1=NC(=NC=N1)NC=1C=NN(C1)C[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C32H41N11O3
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | N-(1-((S)-morpholin-2-ylmethyl)-1H-pyrazol-4-yl)-4-(4-(5-(1-phenylethyl)pyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-amine | N1C[C@H](OCC1)CN1N=CC(=C1)NC1=NC=NC(=N1)N1CCN(CC1)C1=NC=C(C=N1)C(C)C1=CC=CC=C1 | C27H33N11O
